US07973026B2
Step 5: methyl 5-{2-[((2S)-2-{[(benzyloxy)carbonyl]amino}-3-bromopropyl)oxy]phenyl}-6-cyclohexyl-3-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
Methyl 5-{2-[((2R)-2-{[(benzyloxy)carbonyl]amino}-3-hydroxypropyl)oxy]phenyl}-6-cyclohexyl-3-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate and triphenylphosphine (2.27 eq.) were dissolved in DCM (0.02M) and K2CO3 (4.31 eq.) was added. To the stirred mixture CBr4 (2.22 eq.) was added and the yellowish reaction mixture was left stirring at RT for 3 h. All volatiles were evaporated i. vac. and the residual material was subjected to chromatography (PE:EtOAc, 8.5:1.5). The product was obtained as a yellowish sticky solid (86%). MS (ES+) m/z 639, 641 (M+H)+.

reactant | Methyl 5-{2-[((2R)-2-{[(benzyloxy)carbonyl]amino}-3-hydroxypropyl)oxy]phenyl}-6-cyclohexyl-3-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | C(C1=CC=CC=C1)OC(=O)N[C@@H](COC1=C(C=CC=C1)C1=C(C2=C(N1)C(=C(S2)C(=O)OC)C)C2CCCCC2)CO | C32H36N2O6S
reactant | triphenylphosphine | 2.27 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 4.31 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | CBr4 | 2.22 eq. | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 0.02M | C(Cl)Cl | CH2Cl2
product | methyl 5-{2-[((2S)-2-{[(benzyloxy)carbonyl]amino}-3-bromopropyl)oxy]phenyl}-6-cyclohexyl-3-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 86% | C(C1=CC=CC=C1)OC(=O)N[C@@H](COC1=C(C=CC=C1)C1=C(C2=C(N1)C(=C(S2)C(=O)OC)C)C2CCCCC2)CBr | C32H35BrN2O5S
